US04275066
2-[(1,1'-Biphenyl)-4-yl]-imidazo[2,1-a]isoquinoline
A solution of 4.32 g. (0.03 mole) of 1-amino-isoquinoline and 8.25 g. (0.03 mole) of [(1,1'-biphenyl)-4-yl]-bromomethyl-ketone in 100 ml. of chloroform was heated on a boiling water bath for about 10 minutes until a precipitate separated. The solvent was distilled off at atmospheric pressure and the residue was heated under vacuum for 30 minutes at 100° C. It was subsequently taken up with 50 ml of water and the resulting solution was made alkaline by means of 70 ml. of aqueous 10% sodium hydroxide. After extracting with 500 ml. of methylene chloride and evaporating the solvent, a residue was obtained which was re-crystallized from ethylene glycol monomethylether. Yield 3.0 g. M.p. 221°-22° C.

reactant | 1-amino-isoquinoline | 0.03 mole | NC1=NC=CC2=CC=CC=C12 | C9H8N2
reactant | [(1,1'-biphenyl)-4-yl]-bromomethyl-ketone | 0.03 mole | C1(=CC=C(C=C1)C(Br)C(=O)C(C1=CC=C(C=C1)C1=CC=CC=C1)Br)C1=CC=CC=C1 | C27H20Br2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[(1,1'-Biphenyl)-4-yl]-imidazo[2,1-a]isoquinoline | C1(=CC=C(C=C1)C=1N=C2N(C=CC3=CC=CC=C23)C1)C1=CC=CC=C1 | C23H16N2
